US08445501B2
4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-(1-cyclopropyl-methanoyl)-piperidin-4-yl]amide
Starting from 4-(5-cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride (example A138) and cyclopropanecarbonyl chloride the title compound is obtained as colorless solid.

reactant | 4-(5-cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride | Cl.N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-(1-cyclopropyl-methanoyl)-piperidin-4-yl]amide | C1(CC1)C(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C27H29N5O5
